US07683017B2
N-(4-n-butylphenyl)-N-(4-nitrophenyl)amine
To a flask equipped with a magnetic stirrer, reflux condenser, and a nitrogen inlet was added 4-n-butylaniline (48.5 grams, 0.325 moles), 1-fluoro-4-nitrobenzene (15.3 grams, 0.108 moles) and anhydrous methyl sulfoxide (120 ml). The contents of the flask were heated at 100° C. for 3 days; cooled to room temperature; partitioned between diethyl ether (300 ml) and water (100 ml). The ether extract was washed with water (4×100 ml) followed by brine (2×50 ml). The ether extract was dried over anhydrous magnesium sulfate, filtered and concentrated m vacuo to yield a brown oily residue. The residue was re-crystallized from hexane (300 ml) to yield 18.4 grams of product as a yellow solid. 1H NMR (CDCl3) δ 8.1(d, 2H), 7.2(d, 2H), 7.15(d, 2H), 6.9(d, 2H), 6.3(bs, 1H), 2.6(t 2H), 1.6(pent, 2H), 1.4(hextet, 2H), 0.9(t, 3H).

reactant | 4-n-butylaniline | 0.325 moles, 48.5 grams | C(CCC)C1=CC=C(N)C=C1 | C10H15N
reactant | 1-fluoro-4-nitrobenzene | 0.108 moles, 15.3 grams | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
solvent | methyl sulfoxide | 120 ml | CS(=O)C | C2H6OS
product | N-(4-n-butylphenyl)-N-(4-nitrophenyl)amine | 18.4 grams | C(CCC)C1=CC=C(C=C1)NC1=CC=C(C=C1)[N+](=O)[O-] | C16H18N2O2
